US07795255B2
A solution of thiophene-2-carbaldehyde (650 mg, 5.8 mmol) and ethyl azidoacetate (6.89 grams, 53.4 mmol) in dry toluene (40 ml) was added to a cold (−5° C.) solution of sodium ethoxide (about 53 mmol) in ethanol (60 ml) during a time period of one hour, under nitrogen atmosphere. Stirring was continued for another hour while maintaining the temperature under 10° C. The reaction mixture was then cooled to 0° C. and acidified with HCl 0.1 M. After separation of the phases, the aqueous phase was extracted with ether (3×30 ml), the combined organic phase was dried over Na2SO4 and the organic solvents were evaporated under reduced pressure. The crude product was purified by silica gel flash chromatography to give 718 mg of pure 2-azido-3-thiophen-2-yl-acrylic acid ethyl ester (55% yield).

reactant | thiophene-2-carbaldehyde | 5.8 mmol, 650 mg | S1C(=CC=C1)C=O | C5H4OS
reactant | ethyl azidoacetate | 53.4 mmol, 6.89 grams | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | sodium ethoxide | about 53 mmol | [O-]CC.[Na+]
reactant | HCl | 0.1 M | Cl | ClH
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-azido-3-thiophen-2-yl-acrylic acid ethyl ester | 718 mg, 55% yield | C(C)OC(C(=CC=1SC=CC1)N=[N+]=[N-])=O | C9H9N3O2S
